US05597924
Into a tantalum liner in a 600 ml stirred Parr pressure reactor is placed 4.15 g 8-chloro-3-methoxymethylquinoline (20 mmol), 8.0 g 50% aqueous sodium hydroxide (100 mmol) and a solution of 250 mg cupric sulfate pentahydrate (1.0 mmol, 5 mole percent) in 95 ml of water. Sodium hydroxide concentration is 4%. The system is sealed, brought to 160 degrees C and held for 21.5 hours. The cooled solution is filtered through Celite, extracted with two 20 ml portions of toluene, then the aqueous layer is adjusted to pH 3-4 with sulfuric acid and finally to pH 7 with ammonium hydroxide. The mixture is extracted with two 50 ml portions of ethyl acetate. Rotary evaporation of the organic layer gives 2.39 g (63% yield) of crude 8-hydroxy-3-methoxymethylquinoline as a yellow green solid. The crude material is treated with two 500 ml portions of boiling water, leaving behind some insolubles. Long silky yellow needles of pure 8-hydroxy-3-methoxymethylquinoline separate. After filtering and drying, 1.83 g (48% yield) is obtained.

reactant | 8-chloro-3-methoxymethylquinoline | 20 mmol, 4.15 g | ClC=1C=CC=C2C=C(C=NC12)COC | C11H10ClNO
reactant | sodium hydroxide | 100 mmol, 8.0 g | [OH-].[Na+]
solvent | water | 95 ml | O | H2O
catalyst | tantalum | [Ta] | Ta
product | 8-hydroxy-3-methoxymethylquinoline | 2.39 g, 63% yield | OC=1C=CC=C2C=C(C=NC12)COC | C11H11NO2
